US04853381
N-[6-[4-(4-Nitrophenyl)butoxy]hexyl]benzenemethanamine
1-[4-[(6-Bromohexyl)oxy]butyl]-4-nitrobenzene (8.0 g) was added dropwise to benzylamine (30 ml) at 110°. The solution was heated at 110°-120° for 2 h, treated with hydrochloric acid (2M; 200 ml), and extracted with ethyl acetate (2×150 ml). The organic extract was washed with aqueous sodium carbonate (150 ml) and brine (150 ml), dried and evaporated. The residue was purified by FCC eluting with ether to give the title compound as a pale yellow oil (5.9 g). T.l.c. Ether Rf 0.15.

reactant | 1-[4-[(6-Bromohexyl)oxy]butyl]-4-nitrobenzene | 8.0 g | BrCCCCCCOCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C16H24BrNO3
reactant | benzylamine | 30 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | hydrochloric acid | 2M, 200 ml | Cl | ClH
product | N-[6-[4-(4-Nitrophenyl)butoxy]hexyl]benzenemethanamine | 5.9 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCCOCCCCCCNCC1=CC=CC=C1 | C23H32N2O3
